US06498165B1
2-[2,3-Dichlorobenzylamino]-4-[benzimidazol-1-yl]pyrimidine
2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine was reacted with 2,3-dichlorobenzylamine according to the procedure described in EXAMPLE 1, Step C to afford the title compound. Mass Spectrum (ESI): m/e 370.1 (M+1). 1H NMR (500 MHz, CDCl3): δ partial 8.58 (s, 1H); 8.44 (d, J=5.5 Hz, 1H); 7.93 (br s, 1H); 7.85 (d, J=8.3 Hz, 1H); 7.19 (t, J=5.8 Hz, 1H); 6.86 (d, J=5.5 Hz, 1H); 5.88 (br s, 1H); 4.86 (d, J=6.4 Hz, 2H).

reactant | 2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine | CS(=O)(=O)C1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C12H10N4O2S
reactant | 2,3-dichlorobenzylamine | ClC1=C(CN)C=CC=C1Cl | C7H7Cl2N
product | 2-[2,3-Dichlorobenzylamino]-4-[benzimidazol-1-yl]pyrimidine | ClC1=C(CNC2=NC=CC(=N2)N2C=NC3=C2C=CC=C3)C=CC=C1Cl | C18H13Cl2N5
